US05618833
5-Ethoxy-1,3-dihydroindol-2-one
23.6 g of ethyl methylthioacetate in 60 ml of DCM are added to a solution, cooled to about -70° C., of 12.5 g of chlorine in 400 ml of DCM. After stirring for 5 minutes at the same temperature, a solution of 4-ethoxyaniline (48.3 g) in 120 ml of DCM is added. The mixture is stirred for one hour at about -70° C., 39.3 ml of triethylamine are added and the resulting mixture is allowed to warm up to room temperature. 200 ml of water are added and the organic phase is decanted, dried over magnesium sulfate and evaporated under reduced pressure. The residue is taken up with 500 ml of isopropanol and 20 ml of concentrated hydrochloric acid. The mixture is stirred for about 16 hours at room temperature and filtered and the precipitate is separated off. The filtrate is concentrated under reduced pressure to give the expected product.

reactant | ethyl methylthioacetate | 23.6 g | CCC(=S)OCC | C5H10OS
reactant | chlorine | 12.5 g | ClCl | Cl2
reactant | 4-ethoxyaniline | 48.3 g | C(C)OC1=CC=C(N)C=C1 | C8H11NO
reactant | triethylamine | 39.3 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 400 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 120 ml | C(Cl)Cl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | 5-Ethoxy-1,3-dihydroindol-2-one | C(C)OC=1C=C2CC(NC2=CC1)=O | C10H11NO2
